US08975261B2
3-(2,4-dimethyl-1,3-thiazol-5-yl)-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridine (PP2)
A mixture of (2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)boronic acid (PP1) (25 mg, 0.050 mmol), 5-bromo-2,4-dimethyl-1,3-thiazole (9.6 mg, 0.050 mmol), K3PO4 (21.2 mg, 0.10 mmol), S-Phos (2.0 mg, 0.005 mmol), and Pd(OAc)2 (0.6 mg, 0.002 mmol) in THF (0.3 mL) and water (0.05 mL) was heated at 100° C. for 14 hours. The reaction mixture was allowed to cool to room temperature. The mixture was then diluted with EtOAc (5 mL), washed with sodium bicarbonate (1 mL) and brine (1 mL), dried over MgSO4, filtered and concentrated. The resulting residue was purified by reverse phase chromatography (Waters Sunfire Prep C18 OBD, 5-45% acetonitrile in water with 0.1% TFA modifier) to afford the title compound. 1H NMR (500 MHz, DMSO): δ 8.83 (dd, J=4.2, 1.6 Hz, 1 H), 8.29 (s, 1 H), 8.20 (d, J=8.5 Hz, 1 H), 8.12 (d, J=2.9 Hz, 1 H), 7.71 (dd, J=8.4, 4.2 Hz, 1 H), 7.30-7.23 (m, 2 H), 4.61 (dd, J=11.3, 6.7 Hz, 1 H), 4.39 (dd, J=11.3, 7.8 Hz, 1 H), 3.78 (s, 3 H), 2.61 (s, 3 H), 2.36 (s, 3 H), 2.20 (dt, J=8.5, 4.6 Hz, 1 H), 1.79 (s, 1 H), 1.24 (s, 1 H), 1.09-1.04 (m, 1 H); HRMS m/z (M+H) 418.1534 found, 418.1536 required.

reactant | (2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)boronic acid | 0.050 mmol, 25 mg | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1B(O)O | C18H18BN3O4
reactant | 5-bromo-2,4-dimethyl-1,3-thiazole | 0.050 mmol, 9.6 mg | BrC1=C(N=C(S1)C)C | C5H6BrNS
reactant | K3PO4 | 0.10 mmol, 21.2 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 0.005 mmol, 2.0 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | water | 0.05 mL | O | H2O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.002 mmol, 0.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(2,4-dimethyl-1,3-thiazol-5-yl)-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridine | CC=1SC(=C(N1)C)C=1C(=NC2=CC=CN=C2C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC | C23H22N4O2S
